US04163793
Preparation of 2-thiophenecarbaldehyde-p-chlorophenylhydrazone (1)
14.8 g of 2-thiophenecarbaldehyde was added to a mixture of 25.2 g of p-chlorophenylhydrazine hydrochloride and 33.6 g of sodium acetate in 400 ml of 50% aqueous ethyl alcohol. The mixture was heated on a water bath for 30 minutes. After cooling, the precipitated solid was collected and crystallized from ethyl alcohol to give 1, as yellow needles, mp 137° C.

reactant | 2-thiophenecarbaldehyde | 14.8 g | S1C(=CC=C1)C=O | C5H4OS
reactant | p-chlorophenylhydrazine hydrochloride | 25.2 g | Cl.ClC1=CC=C(C=C1)NN
reactant | sodium acetate | 33.6 g | C(C)(=O)[O-].[Na+]
solvent | ethyl alcohol | 400 ml | C(C)O | C2H6O
product | 2-thiophenecarbaldehyde-p-chlorophenylhydrazone | ClC1=CC=C(C=C1)NN=CC=1SC=CC1 | C11H9ClN2S
